*Bibliothèques L293 et L293D

.subckt L293 en in1 out1 GND in2 out2 VCC VCC2
Q4 VCC2 N003 out1 0 2N2219A
Q6 out1 N006 GND 0 2N2219A
Q1 GND in1 N004 0 2N3906
D1 GND in1 1N914
I1 VCC N004 1m
R12 N002 Vx1 1k
R14 VCC2 N001 1k
Q2 N001 N002 0 0 2N2222A
XU2 P001 en V11 VCC 0 74HC08 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 N004 P001 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
R1 V12 N001 200
R2 N005 V11 1k
R3 N006 GND 100
XU1 en N004 Vx1 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
R4 N003 out1 200
Q3 VCC2 V12 N003 0 2N2219A
Q5 out1 N005 N006 0 2N2219A
Q7 VCC2 N009 out2 0 2N2219A
Q8 out2 N012 GND 0 2N2219A
Q9 GND in2 N010 0 2N3906
D2 GND in2 1N914
I2 VCC N010 1m
R5 N008 Vx 1k
R6 VCC2 N007 1k
Q10 N007 N008 0 0 2N2222A
XU4 P002 en V1 VCC 0 74HC08 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU5 N010 P002 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
R7 V2 N007 200
R8 N011 V1 1k
R9 N012 GND 100
XU6 en N010 Vx VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
R10 N009 out2 200
Q11 VCC2 V2 N009 0 2N2219A
Q12 out2 N011 N012 0 2N2219A
.ends

.subckt L293D en in1 out1 GND in2 out2 VCC VCC2
Q4 VCC2 N003 out1 0 2N2219A
Q6 out1 N006 GND 0 2N2219A
Q1 GND in1 N004 0 2N3906
D1 GND in1 1N914
I1 VCC N004 1m
R12 N002 Vx1 1k
R14 VCC2 N001 1k
Q2 N001 N002 0 0 2N2222A
XU2 P001 en V11 VCC 0 74HC08 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 N004 P001 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
R1 V12 N001 200
R2 N005 V11 1k
R3 N006 GND 100
XU1 en N004 Vx1 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
R4 N003 out1 200
Q3 VCC2 V12 N003 0 2N2219A
Q5 out1 N005 N006 0 2N2219A
Q7 VCC2 N009 out2 0 2N2219A
Q8 out2 N012 GND 0 2N2219A
Q9 GND in2 N010 0 2N3906
D2 GND in2 1N914
I2 VCC N010 1m
R5 N008 Vx 1k
R6 VCC2 N007 1k
Q10 N007 N008 0 0 2N2222A
XU4 P002 en V1 VCC 0 74HC08 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU5 N010 P002 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
R7 V2 N007 200
R8 N011 V1 1k
R9 N012 GND 100
XU6 en N010 Vx VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
R10 N009 out2 200
Q11 VCC2 V2 N009 0 2N2219A
Q12 out2 N011 N012 0 2N2219A
D3 out1 VCC2 1N5817
D4 GND out1 1N5817
D5 out2 VCC2 1N5817
D6 GND out2 1N5817
.ends

.model 1N914 D(Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75 mfg=OnSemi type=silicon)
.model 2N2219A NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307 Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p
+ Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10 Vceo=40 ICrating=800m mfg=Philips)
.model 2N2222A NPN (Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307 Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p Itf=.6Vtf=1.7 Xtf=3 Rb=10 Vceo=40 ICrating=800m mfg=Fairchild)
.model 2N3906 PNP(IS=1E-14 VAF=100
+  BF=200 IKF=0.4 XTB=1.5 BR=4
+  CJC=4.5E-12 CJE=10E-12 RB=20 RC=0.1 RE=0.1
+  TR=250E-9   TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40  ICrating=200m mfg=Philips)
.lib addon\74HC.lib
