* mcc_param.lib

.subckt mcc IN+ IN- fcem
.params R=10 L=5m
.params K=30
.params J=2.5 Cf=0.06

R1 N001 in+ {R}
L1 N002 N001 {L}
B1 N003 in- V=K*V(OMEGA)
V1 N002 N003 0
R2 OMEGA 0 {Cf}
C1 OMEGA 0 {J}
B3 0 OMEGA I=K*(I(V1))
B2 fcem 0 V=K*V(OMEGA)
.ends
