*-------------------------------------------------------------------
.SUBCKT RLY_SIG1NC  coilp coilm in1 out1 
+ RON=0.1 ROFF=1G
+ TON=5m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.8*0.001*TON/log(1-VON)
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay until SW1 close
RD1 3 5 1k
CD1 5 0 {C1}
*
SW1 in1 out1 5 0 Switch1 
COff1 in1 out1 {COFF}
*
.model Switch1 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS
