*transfo utilisant le modele k de spice (mutuelle inductance)
.SUBCKT transfo_model_K 1 2 3 4  
*
L1 1 2 {L1}  Rser={R1}
L2 3 4 {L2}  Rser={R2}
K123 L1 L2  {K}
*
.ENDS 
