* C:\Program Files\LTC\SwCADIII\tutorial\electrotech\test\transfo_tri1.asc
.SUBCKT transfo_etoile_triangle P1 P2 P3  N V1S V2S V3S
.param m=1 Lp=2
R1 P2 N 1T
R2 P3 N 1T
R3 P1 N 1T
R4 V1S N 1T
R5 V2S N 1T
R6 V3S N 1T
XU1 P1 N N002 N001 Transfo_ideal LP={Lp} m={m} R1=1m
XU2 P2 N N003 V2S Transfo_ideal LP={Lp}  m={m}  R1=1m
XU3 P3 N V1S V3S Transfo_ideal LP={Lp}   m={m}  R1=1m
R10 V2S N002 1m
R20 V3S N003 1m
R30 V1S N001 1m
.ends transfo_etoile_triangle

.SUBCKT transfo_triangle_etoile P1 P2 P3 V1S V2S V3S N
.param m=1 Lp=2
R1 P2 P3 1T
R2 P3 P1 1T
R3 P1 P2 1T
R10 V1S N 1T
R20 V2S N 1T
R30 V3S N 1T
XU1 P2 P3 N V2S Transfo_Ideal LP={Lp} m={m} R1=10m
XU2 P1 P2 N V1S Transfo_Ideal LP={Lp}  m={m} R1=10m
XU3 P3 P1 N V3S Transfo_Ideal LP={Lp} m={m} R1=10m
.ends transfo_triangle_etoile

.SUBCKT transfo_tri 1 2 3 4 5 6 7 8 9 10 11 12
.param m=1 Lp=2
XU1 1 2 3 4 Transfo_Ideal LP={Lp} m={m} R1=10m
XU2 5 6 7 8 Transfo_Ideal LP={Lp}  m={m} R1=10m
XU3 9 10 11 12 Transfo_Ideal LP={Lp} m={m} R1=10m
.ends transfo_tri
.lib addon\Transfo_ideal.sub


